US04021434
In 160 ml of tetrahydrofuran was dissolved 40 g of diethyl 2,6-dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5 -dicarboxylate and after adding to the solution 5.2 g of 50% oil dispersion of sodium hydride at room temperature, the resultant mixture was stirred for 30 minutes at room temperature. Then, the mixture was cooled to temperatures of from -10° C. to -20° C., and after adding dropwise thereto a solution of 20 g ethylene sulfate in 80 ml of tetrahydrofuran, the mixture was stirred for 1 hr. at -10° C., and the temperature of the system was raised gradually till room temperature. After further adding 4.0 g of 50% oil dispersion of sodium hydride, the mixture was stirred for 3 hrs. at room temperature. The reaction mixture was cooled to -10° C., and after adding dropwise a solution of 5.0 g ethylene sulfate in 10 ml of tetrahydrofuran, the mixture was stirred for 1 hr. at the same temperature. The reaction mixture was cooled and 800 ml of ether was added thereto and further 100 ml of water was added. The separated aqueous layer was subjected to a silica gel column chromatography (12 cm × 5.0 cm). After eluting the small amount of raw material using 50 ml of ethyl acetate as an elute, the product was then developed by using 1:1 ethyl acetate-methanol mixed solvent as an elute. The solvent of the effluent was distilled away under reduced pressure, and to the residue obtained was added 30 ml of water and after cooling, the crystal formed was filtered to provide 35 g of sodium β-[2,6-dimethyl-3,5-bis(ethoxycarbonyl)-4-(3-nitrophenyl)- 1,4-dihydropyridine-1-yl]-ethyl sulfate. By recrystallizing this product from water, scale-shaped yellow crystal was obtained.

reactant | diethyl 2,6-dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5 -dicarboxylate | 40 g | CC=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C | C19H22N2O6
reactant | sodium hydride | [H-].[Na+]
reactant | ethylene sulfate | 20 g | S1(=O)(=O)OCCO1 | C2H4O4S
reactant | ethylene sulfate | 5.0 g | S1(=O)(=O)OCCO1 | C2H4O4S
reactant | ether | 800 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 160 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 30 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | sodium β-[2,6-dimethyl-3,5-bis(ethoxycarbonyl)-4-(3-nitrophenyl)- 1,4-dihydropyridine-1-yl]-ethyl sulfate | 35 g | S(=O)(=O)(OCCN1C(=C(C(C(=C1C)C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C)[O-].[Na+] | InChI=1S/C21H26N2O10S.Na/c1-5-31-20(24)17-13(3)22(10-11-33-34(28,29)30)14(4)18(21(25)32-6-2)19(17)15-8-7-9-16(12-15)23(26)27;/h7-9,12,19H,5-6,10-11H2,1-4H3,(H,28,29,30);/q;+1/p-1
